US06451827B2
Step 2 {2-[3,3″-Dichloro-5′-(8-indol-1-yl-octylcarbamoyl)-[1,1′;3′,1″]terphenyl-2′-yloxy]-ethoxy}acetic Acid
The title compound was prepared as a white foam (0.172 g, 47%) from {2-[3,3″-Dichloro-5′-(8-indol-1-yl-octylcarbamoyl)-[1,1′;3′,1″]terphenyl-2′-yloxy]-ethoxy}acetic acid, methyl ester using a procedure similar to Step 4 of example 165; dec.>50° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.16-1.32 (m, 8H), 1.44-1.53 (m, 2H), 1.67-1.76 (m, 2H), 3.17-3.42 (m, 6H), 3.61 (s, 2H), 4.12 (t, J=7 Hz, 2H), 6.37 (d, J=3.1 Hz, 1H), 6.95-6.99 (m, 2H), 7.06-7.10 (m, 2H), 7.32 (m, 1H), 7.41-7.55 (m, 6H), 7.57-7.60 (m, 2H), 7.68-7.77 (m, 2H), 7.87 (s, 2H), 8.54 (t, J=5.5 Hz, 1H), 12.50 (broad s, 1H); IR (KBr) 3410, 2940, 1625, 1560, 1540, 1460, 1220, 1130 cm−1; mass spectrum [(+)APCI], m/z 687 (M+H)+; Anal. Calcd. for C39H40Cl2N2O5.0.5H2O: C, 67.24; H, 5.93; N, 4.02, Found: C, 67.26; H, 6.02; N, 3.96.

reactant | {2-[3,3″-Dichloro-5′-(8-indol-1-yl-octylcarbamoyl)-[1,1′;3′,1″]terphenyl-2′-yloxy]-ethoxy}acetic acid, methyl ester | ClC=1C=C(C=CC1)C1=C(C(=CC(=C1)C(NCCCCCCCCN1C=CC2=CC=CC=C12)=O)C1=CC(=CC=C1)Cl)OCCOCC(=O)OC | C40H42Cl2N2O5
reactant | KBr | [K+].[Br-]
product | {2-[3,3″-Dichloro-5′-(8-indol-1-yl-octylcarbamoyl)-[1,1′;3′,1″]terphenyl-2′-yloxy]-ethoxy}acetic Acid | ClC=1C=C(C=CC1)C1=C(C(=CC(=C1)C(NCCCCCCCCN1C=CC2=CC=CC=C12)=O)C1=CC(=CC=C1)Cl)OCCOCC(=O)O | C39H40Cl2N2O5
